US04729994
c. cis-3-(Acetyloxy)-2,3,4,5-tetrahydro-2-(4-methoxyphenyl)-N-[2-(3,5-dimethoxyphenyl)ethyl]-N,N-dimethyl-4-oxo-1,5-benzothiazepine-5-ethanaminium iodide
To a flask under nitrogen was added 5.0 g (0.0121 mole) of diltiazem, 3.52 g (0.0121 mole) of 3,5-dimethoxyphenethyl iodide, and 20 ml of EtOAc. The reaction mixture was heated at 50° C. for 24 hr then at 75° C. for 97 hr. The reaction was cooled to RT, the solvent decanted, and the oily residue washed three times with EtOAc. The oily residue was dissolved in methylene chloride, washed with water and dried over MgSO4. The solvent was evaporated to give 5.45 g of a mixture of the title product and diltiazem hydroiodide as a tan foam.

reactant | diltiazem | 0.0121 mole, 5.0 g | CC(=O)O[C@@H]1[C@@H](SC=2C=CC=CC2N(C1=O)CCN(C)C)C=3C=CC(=CC3)OC | C22H26N2O4S
reactant | 3,5-dimethoxyphenethyl iodide | 0.0121 mole, 3.52 g | COC=1C=C(CCI)C=C(C1)OC | C10H13IO2
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
product | cis-3-(Acetyloxy)-2,3,4,5-tetrahydro-2-(4-methoxyphenyl)-N-[2-(3,5-dimethoxyphenyl)ethyl]-N,N-dimethyl-4-oxo-1,5-benzothiazepine-5-ethanaminium iodide | 5.45 g | [I-].C(C)(=O)O[C@@H]1[C@@H](SC2=C(N(C1=O)CC[N+](C)(C)CCC1=CC(=CC(=C1)OC)OC)C=CC=C2)C2=CC=C(C=C2)OC | InChI=1S/C32H39N2O6S.HI/c1-22(35)40-30-31(24-11-13-25(37-4)14-12-24)41-29-10-8-7-9-28(29)33(32(30)36)16-18-34(2,3)17-15-23-19-26(38-5)21-27(20-23)39-6;/h7-14,19-21,30-31H,15-18H2,1-6H3;1H/q+1;/p-1/t30-,31+;/m1./s1
